US05470871
Preparation of 5-formyl-4-methyl-3-methylthio-1,2-dithiolylium iodide
5-Formyl-4-methyl-1,2-dithiole-3-thione is dissolved in an excess of methyl iodide.

reactant | 5-Formyl-4-methyl-1,2-dithiole-3-thione | C(=O)C1=C(C(SS1)=S)C | C5H4OS3
reactant | methyl iodide | CI | CH3I
product | 5-formyl-4-methyl-3-methylthio-1,2-dithiolylium iodide | [I-].C(=O)C1=C([C+](SS1)SC)C | InChI=1S/C6H7OS3.HI/c1-4-5(3-7)9-10-6(4)8-2;/h3H,1-2H3;1H/q+1;/p-1
